US04663334
1-[(1,1-Dimethylethyl)amino]-3-(2-ethynylphenoxy)-2-propanol Acetate
A 4.8 g (42.8 mmole) sample of 1-acetylimidazole was added to a solution of 5.14 g (20.8 mmole) of 1-[(1,1-dimethylethyl)amino]-3-(2-ethynylphenoxy)-2-propanol in 28 ml THF. The mixture was stirred under N2 for one hour. The mixture was partitioned between water and ether. The ether layer was washed with brine, dried (K2CO3) and the solvent evaporated in vacuo to give the title compound as an oil, 6.14 g.

reactant | 1-acetylimidazole | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | 1-[(1,1-dimethylethyl)amino]-3-(2-ethynylphenoxy)-2-propanol | 20.8 mmole, 5.14 g | CC(C)(C)NCC(COC1=C(C=CC=C1)C#C)O | C15H21NO2
solvent | THF | 28 ml | C1CCOC1 | C4H8O
product | 1-[(1,1-Dimethylethyl)amino]-3-(2-ethynylphenoxy)-2-propanol Acetate | C(C)(=O)OC(CNC(C)(C)C)COC1=C(C=CC=C1)C#C | C17H23NO3
